US09328192B2
To a solution of 4-Nitro-benzoic acid 1-hexyl-11-(4-nitro-phenoxy carbonyl)-undecyl ester (290 g) in a mixture of Ethyl acetate (1.5 L) and DMF (300 mL) taken in a pressure vessel was added Raney Nickel (80 g). The reaction mixture was stirred under an atmosphere of Hydrogen (8-10 Kg) for 4 hours at a temperature of 60-65° C. The catalyst was removed by filtration. 75% of the solvent was distilled off and poured into cold water (2 L). The resulting solid was filtered off and washed with chilled water (100 mL) and do the slurry with 1 lit diisopropylether and filtered off, then dried the material properly in vacuum oven at 60-80° C. to yield pure 4-amino-benzoic acid 11-(4-amino-phenoxycarbonyl)-1-hexyl-undecyl ester product as off white powder (190 g) with a melting point of 156-159° C. The resulting compound was characterized by 1H NMR (CDCl3) δ 0.83 (t, 3H, CH3), 1.2-1.65 (m, 26H, 13×CH2), 1.81 (m, 2H, CH2), 2.12 (t, 2H, COCH2), 3.50 (m, 1H, CH), 5.5-6.1 (m, 4H, 2×NH2) 6.8-7.2 (m, 4H, Ar), 7.2-7.8 (m, 4H, Ar). The hydrolytic degradation of the compound was carried out in pH 9.0 buffer solution. The study showed that 1% solution is 100% hydrolyzed in 15 hours at 50° C.

reactant | 4-Nitro-benzoic acid 1-hexyl-11-(4-nitro-phenoxy carbonyl)-undecyl ester | 290 g | C(CCCCC)C(CCCCCCCCCCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H42N2O8
solvent | Ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | Raney Nickel | 80 g | [Ni] | Ni
product | 4-amino-benzoic acid 11-(4-amino-phenoxycarbonyl)-1-hexyl-undecyl ester | NC1=CC=C(OC(=O)CCCCCCCCCCC(CCCCCC)OC(C2=CC=C(C=C2)N)=O)C=C1 | C31H46N2O4
